US08222399B2
To 1.8 g of sorbic acid (manufactured by Wako Pure Chemical) were added 1 g of tetraethylammonium bromide (manufactured by Wako Pure Chemical) and 60 ml of epichlorohydrin (manufactured by Wako Pure Chemical), the mixture was heated to reflux at 110° C. for 3 hours, 30 ml of distilled water was added thereto and an organic layer was separated and concentrated in vacuoat 80° C. to give 3.5 g of glycidyl sorbate. An epoxy equivalent of this glycidyl sorbate was 367.4.

reactant | sorbic acid | 1.8 g | C(\C=C\C=C\C)(=O)O | C6H8O2
reactant | epichlorohydrin | 60 ml | C(Cl)C1CO1 | C3H5ClO
catalyst | tetraethylammonium bromide | 1 g | [Br-].C(C)[N+](CC)(CC)CC
solvent | water | 30 ml | O | H2O
product | glycidyl sorbate | 3.5 g | C(\C=C\C=C\C)(=O)OCC1CO1 | C9H12O3
